US08633313B2
2-(1-(3-Phenyl-1,5-naphthyridin-2-yl)ethyl)isoindoline-1,3-dione
2-Ethyl-3-phenyl-1,5-naphthyridine (112 mg, 0.43 mmol) and 1,3-dibromo-5,5-dimethylhydantoin (85 mg, 0.7 eq) were suspended in carbon tetrachloride (5 mL). To the mixture was added benzoyl peroxide (10.3 mg, 0.1 eq) and the mixture was heated at reflux for 3 h. To the mixture was added saturated aqueous sodium bicarbonate solution (3 mL). The layers were separated and the aqueous layer was extracted with CH2CH2 (3 mL×2). The combined organic layers were washed with brine (3 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure to give an orange syrup. The material is used as such for the next step. LC-MS (ESI) m/z 314 [M+H]+. A mixture of 2-(1-bromoethyl)-3-phenyl-1,5-naphthyridine (120 mg, 0.38 mmol) in DMF (2.0 mL) was treated with phthalimide potassium salt (142 mg, 2.0 eq) at 60° C. for 2 h. LCMS showed completion. The reaction mixture was partitioned between water and EtOAc, worked up and purified by silica gel column chromatography using EtOAc-hexane (0/1 to 2/1) as eluent to give a white solid. 1H NMR (500 MHz, CDCl3) δ ppm 8.88 (1H, dd, J=5.0, 1.6 Hz), 8.31 (1H, J=10 Hz), 8.1 (1H, s), 7.63-7.54 (5H, m), 7.27-7.17 (8H, m), 5.88 (1H, dd, J=10, 5.0 Hz), 1.76 (3 H, J=10 Hz); LC-MS (ESI) m/z 380 [M+H]+.

reactant | 2-Ethyl-3-phenyl-1,5-naphthyridine | 0.43 mmol, 112 mg | C(C)C1=NC2=CC=CN=C2C=C1C1=CC=CC=C1 | C16H14N2
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 85 mg, 0.7 eq | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | benzoyl peroxide | 10.3 mg, 0.1 eq | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | sodium bicarbonate | 3 mL | C([O-])(O)=O.[Na+]
reactant | 2-(1-bromoethyl)-3-phenyl-1,5-naphthyridine | 0.38 mmol, 120 mg | BrC(C)C1=NC2=CC=CN=C2C=C1C1=CC=CC=C1 | C16H13BrN2
reactant | phthalimide potassium salt | 142 mg, 2.0 eq | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
solvent | carbon tetrachloride | 5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 2-(1-(3-Phenyl-1,5-naphthyridin-2-yl)ethyl)isoindoline-1,3-dione | C1(=CC=CC=C1)C=1C(=NC2=CC=CN=C2C1)C(C)N1C(C2=CC=CC=C2C1=O)=O | C24H17N3O2
